
* cell TOP
* pin GND
* pin VDD
.SUBCKT TOP 3 6
* net 3 GND
* net 6 VDD
* device instance $1 r0 *1 222.383,-292.802 NMOS
M$1 5 4 6 6 NMOS L=28.662604476U W=128.551U AS=13048.948417P AD=10995.612328P
+ PS=383.2215U PD=428.445U
* device instance $2 r0 *1 50.448,-291.664 NMOS
M$2 7 1 6 6 NMOS L=30.1533112058U W=127.3675U AS=13048.948417P AD=5936.3533025P
+ PS=383.2215U PD=220.728U
* device instance $3 r0 *1 -72.853,-291.81 NMOS
M$3 7 2 4 4 NMOS L=31.2441437951U W=128.391U AS=11213.178178P AD=5936.3533025P
+ PS=431.782U PD=220.728U
* device instance $4 r0 *1 -53.748,156.159 PMOS
M$4 4 2 3 3 PMOS L=27.5468466988U W=179.692U AS=17681.953782P AD=8969.3661105P
+ PS=556.186U PD=279.524U
* device instance $5 r0 *1 75.054,156.159 PMOS
M$5 3 1 4 4 PMOS L=31.2768259411U W=179.692U AS=8969.3661105P AD=10410.577776P
+ PS=279.524U PD=295.563U
* device instance $6 r0 *1 221.939,156.159 PMOS
M$6 5 4 3 3 PMOS L=30.305U W=179.691U AS=10410.577776P AD=15183.350427P
+ PS=295.563U PD=528.376U
.ENDS TOP
