
* cell AN2D0HPBWP
* pin VDD
* pin GND
.SUBCKT AN2D0HPBWP VDD GND
* device instance $1 r0 *1 0.28,0.465 NMOS
M$1 \$10 \$2 \$4 \$4 NMOS L=0.06U W=0.27U AS=0.0486P AD=0.027P PS=0.9U PD=0.47U
* device instance $2 r0 *1 0.54,0.465 NMOS
M$2 \$10 \$1 GND GND NMOS L=0.06U W=0.27U AS=0.0585P AD=0.027P PS=0.81U PD=0.47U
* device instance $3 r0 *1 0.9,0.465 NMOS
M$3 \$3 \$4 GND GND NMOS L=0.06U W=0.27U AS=0.0585P AD=0.0486P PS=0.81U PD=0.9U
* device instance $4 r0 *1 0.32,1.405 PMOS
M$4 \$4 \$2 VDD VDD PMOS L=0.06U W=0.37U AS=0.074P AD=0.03885P PS=1.14U PD=0.58U
* device instance $5 r0 *1 0.59,1.405 PMOS
M$5 VDD \$1 \$4 \$4 PMOS L=0.06U W=0.37U AS=0.03885P AD=0.04625P PS=0.58U
+ PD=0.62U
* device instance $6 r0 *1 0.9,1.405 PMOS
M$6 \$3 \$4 VDD VDD PMOS L=0.06U W=0.37U AS=0.04625P AD=0.0666P PS=0.62U PD=1.1U
.ENDS AN2D0HPBWP
